data/pmechdb/original/mc_train_fold0/raw/train.txt
[H:20][O:21]C(C1=CC=C(C=C1)F)(C2=[N+](C(=C(S2)CCO)C)CCC3=CC=C(C=C3)C[N+]4=CSC(=C4C)CCO)C([CH:10]=[C:11](C5=CC=CC=C5)[O-:12])C6=CC=CS6.CC[NH+](CC)CC.CCO.[Br-]>>[H:20][CH:10](C(C1=CC=CS1)C(C2=CC=C(C=C2)F)(C3=[N+](C(=C(S3)CCO)C)CCC4=CC=C(C=C4)C[N+]5=CSC(=C5C)CCO)[O-:21])[C:11](=[O:12])C6=CC=CC=C6.CC[NH+](CC)CC.CCO.[Br-] 10,11=10,20;20,21=21;12=11
CON1C2=C(C=CC=C2)C3(C1=O)CC(C4CC(=O)C3OC4)[C:22](=[O:23])[N:21]=[N+:20]=[N-:10].[Cl-]>>CON1C2=C(C=CC=C2)C3(C1=O)CC(C4CC(=O)C3OC4)[C:22](=[N:21][N+:20]#[N:10])[O-:23].[Cl-] 10=20;22,23=23;20,21=21,22
[H:20][O:21]C(=O)C.C1=CC=C(C=C1)C2C=C(N(C2(C3=CC=CO3)[OH:10])CC(=O)O)C4=C5C=CC=CC5=CC=C4.O>>[H:20][OH+:10]C1(C(C=C(N1CC(=O)O)C2=C3C=CC=CC3=CC=C2)C4=CC=CC=C4)C5=CC=CO5.CC(=O)[O-:21].O 10=20;20,21=21
[H:20][O+:21]=COC1=CC(=C2C=CC(=C(C2=C1)OC)Br)OC(C)C.C1=CC(=CC(=C1)Cl)C(=O)[O-:10]>>[H:20][O:10]C(=O)C1=CC(=CC=C1)Cl.CC(C)OC1=C2C=CC(=C(C2=CC(=C1)OC=[O:21])OC)Br 10=20;20,21=21
C[Si-:10](C)(C)([Cl:11])I>>C[Si:10](C)(C)I.[Cl-:11] 10,11=11
[H:20][O:21]S(=O)(=O)C1=CC=C(C=C1)C.CC(C)([O:10]C)OCCO>>[H:20][O+:10](C)C(C)(C)OCCO.CC1=CC=C(C=C1)S(=O)(=O)[O-:21] 10=20;20,21=21
CC#[N+][Si-:10](C)(C)(C)[O:11]S(=O)(=O)C(F)(F)F.CC#CN(C)S(=O)(=O)C>>CC#[N+][Si:10](C)(C)C.C(F)(F)(F)S(=O)(=O)[O-:11].CC#CN(C)S(=O)(=O)C 10,11=11
CC[O:21][C:20](C(CCCCC(=O)[O-])CCC=C)(O)[O-:10]>>CC[O-:21].C=CCCC(CCCCC(=O)[O-])[C:20](=[O:10])O 10=20;20,21=21
[H:10][BH2-:11]C#N.CCOC(=O)C1=CN(C2=C(C1=O)C=C(C(=C2)N3CC[N+:21](=[CH:20]C4=CC5=C(C=C4)C(N(C5(C)C)OC)(C)C)CC3)F)C6CC6.CC(=O)[O-].CO.O>>[H:10][CH:20](C1=CC2=C(C=C1)C(N(C2(C)C)OC)(C)C)[N:21]3CCN(CC3)C4=CC5=C(C=C4F)C(=O)C(=CN5C6CC6)C(=O)OCC.[BH2:11]C#N.CC(=O)[O-].CO.O 10,11=10,20;20,21=21
[H:20][OH+:21]S(C)(C)Br.[Br-:10]>>[H:20][Br:10].CS(C)([OH:21])Br 10=20;20,21=21
[H:20][O:21]CC.CC=CC(C)(C(C=C)C(=O)C)[O-:10]>>[H:20][O:10]C(C)(C=CC)C(C=C)C(=O)C.CC[O-:21] 10=20;20,21=21
CC(=[C:20]([O-:10])[Cl:21])Cl.CC[NH+](CC)CC.CC(=O)OC=C1C=CC=C1>>CC(=[C:20]=[O:10])Cl.[Cl-:21].CC[NH+](CC)CC.CC(=O)OC=C1C=CC=C1 10=20;20,21=21
[H:20][C:21](C)(C)[C+:22](C)C.[OH2:10]>>C[C:21](=[C:22](C)C)C.[H:20][OH2+:10] 10=20;20,21=21,22
[H:20][OH+:21]C(C)(C)OC1C(OC(C(C1O)OC(=O)C)OCC=C)COC(=O)C.CC(=O)[O-:10].O>>[H:20][O:10]C(=O)C.CC(=O)OCC1C(C(C(C(O1)OCC=C)OC(=O)C)O)OC(C)(C)[OH:21].O 10=20;20,21=21
CC[SH:10].CO[C:22](=[OH+:23])[CH:21]=[CH2:20]>>CC[SH+:10][CH2:20][CH:21]=[C:22]([OH:23])OC 10=20;22,23=23;20,21=21,22
[H:20][CH:21](C)[C+:22](C)C1=CC=CC=C1.CC[OH:10]>>[H:20][OH+:10]CC.C[CH:21]=[C:22](C)C1=CC=CC=C1 10=20;20,21=21,22
CCO[C:20](=[OH+:21])CCCC(C1=CC=CC=C1)[OH:10].C(=O)(C(F)(F)F)[O-]>>CCO[C:20]1(CCCC([OH+:10]1)C2=CC=CC=C2)[OH:21].C(=O)(C(F)(F)F)[O-] 10=20;20,21=21
C[O+:21]=[CH2:20].[Br-:10]>>C[O:21][CH2:20][Br:10] 10=20;20,21=21
C[S:10]C[CH2:20][I:21]>>C[S+:10]1C[CH2:20]1.[I-:21] 10=20;20,21=21
CC(=[C+]CC(CCC1=CC=CC=C1)O[Ti-:10]([Cl:11])(Cl)(Cl)Cl)[Si](C)(C)C>>CC(=[C+]CC(CCC1=CC=CC=C1)O[Ti:10](Cl)(Cl)Cl)[Si](C)(C)C.[Cl-:11] 10,11=11
CC(=O)O[C:20](=[O:21])CCCC[O-:10]>>CC(=O)O[C:20]1(CCCC[O:10]1)[O-:21] 10=20;20,21=21
[B-]1(C2CCCC1CCC2)([O:12][C:11](=[CH:10]C)C)[O+:21]=[CH:20]C>>[B-]12(C3CCCC1CCC3)[O:21][CH:20]([CH:10]([C:11](=[O+:12]2)C)C)C 10,11=10,20;20,21=21;12=11
[H:20][CH:21](C=C)[CH:22]1C([O+:23]1[Li-][N:10](CC)CC)C>>[H:20][N+:10]([Li-][O:23]C(C)[CH:22]=[CH:21]C=C)(CC)CC 10=20;22,23=23;20,21=21,22
[H:20][CH:21](C(C1C(OC(O1)(C)C)C(C[S+](C)[O-])OCC2=CC=CC=C2)OCC3=CC=CC=C3)[S+](C)OC(=O)C(F)(F)F.C(=O)(C(F)(F)F)[O-:10]>>[H:20][O:10]C(=O)C(F)(F)F.CC1(OC(C(O1)C([CH-:21][S+](C)OC(=O)C(F)(F)F)OCC2=CC=CC=C2)C(C[S+](C)[O-])OCC3=CC=CC=C3)C 10=20;20,21=21
CC(CC1CCCC1)C[C:20](=[O:10])[Cl+:21][Al-](Cl)(Cl)Cl>>CC(C[C:20]#[O+:10])CC1CCCC1.[Al-](Cl)(Cl)(Cl)[Cl:21] 10=20;20,21=21
[H:20][O:21]S(=O)(=O)O.C=C[CH:11]=[CH2:10]>>[H:20][CH2:10][CH+:11]C=C.OS(=O)(=O)[O-:21] 10,11=10,20;20,21=21
C[O-:10].CO[C:20](=[O:21])O>>CO[C:20](O)([O-:21])[O:10]C 10=20;20,21=21
[H:20][N+:21](CC)(CC)C(C)(C)O.CC[NH:10]CC>>[H:20][NH+:10](CC)CC.CC[N:21](CC)C(C)(C)O 10=20;20,21=21
[H:20][OH+:21]C(C=CC)C(C)Br.[OH2:10]>>[H:20][OH2+:10].CC=CC(C(C)Br)[OH:21] 10=20;20,21=21
[Li+:20].CCO[Si-](C1=CC2=C(C=C1)N(C=C2)C)(OCC)(OCC)[O:10]CC.CCCCBr>>[Li:20][O+:10](CC)[Si-](C1=CC2=C(C=C1)N(C=C2)C)(OCC)(OCC)OCC.CCCCBr 10=20,
[H:20][N+:21](=C(C)Cl)CCC1=CC(=CC=C1)OC.[O-:10]P(=O)(Cl)Cl>>[H:20][O:10]P(=O)(Cl)Cl.CC(=[N:21]CCC1=CC(=CC=C1)OC)Cl 10=20;20,21=21
[Li:11][C:10]1=C(C=CC=C1)COC(=O)[C:20](=[O:21])CC.CC1=CC(=C(C(=C1)C)I)C>>[Li+:11].CC[C:20]1([C:10]2=C(COC1=O)C=CC=C2)[O-:21].CC1=CC(=C(C(=C1)C)I)C 10,11=10,20;20,21=21
CCCCCC1=CC=C(C=C1)[CH:20]([C:11](C)([C:10]2=CC=CC(=C2)CCC)[OH:12])[OH2+:21].C1=CC(=CC=C1C(F)(F)F)S(=O)(=O)[O-]>>CCCCCC1=CC=C(C=C1)[CH:20]([C:10]2=CC=CC(=C2)CCC)[C:11](=[OH+:12])C.[OH2:21].C1=CC(=CC=C1C(F)(F)F)S(=O)(=O)[O-] 10,11=10,20;20,21=21;12=11
[H:20][O:21]C(C1=CC(=C2C=CC(=C(C2=C1)OC)Br)OC(C)C)OOC(=[O:10])C3=CC(=CC=C3)Cl>>[H:20][O+:10]=C(C1=CC(=CC=C1)Cl)OOC(C2=CC(=C3C=CC(=C(C3=C2)OC)Br)OC(C)C)[O-:21] 10=20;20,21=21
[Mg+:20]Cl.[P:10](Cl)(Cl)Cl>>[Mg:20]([P+:10](Cl)(Cl)Cl)Cl 10=20,
